US05023272
3-Diethylamino-2,2-dimethylpropyl 5-(p-Chlorophenyl)-2-furoate Hydrochloride
5-(p-Chlorophenyl)-2-furoic acid (33.5 g., 0.15 mole) is added with rapid stirring to thionyl chloride (58 ml.) at room temperature, heated until solution occurs (about 20 min.) and then refluxed for 2 hr. The mixture is stripped of excess thionyl chloride in vacuo, benzene (100 ml.) is added, and again stripped of solvent. The residue is treated with a solution of 3-diethylamino-2,2-dimethylpropanol (24.1 g., 0.15 mole) in benzene (700 ml.), refluxed for 4 hr., cooled, diluted with petroleum ether (450 ml.) and stored for 18 hours at room temperature. The benzene-petroleum ether solution is decanted, the residue is dissolved in H2O (1000 ml.), and the solution is adjusted to pH 8 with saturated aqueous Na2CO3 (70 ml.). The product is extracted from the aqueous phase with benzene (1000 ml.) in portions and the extract is dried overnight with MgSO4 and activated charcoal. The solution is filtered and the filtrate is adjusted to pH 3 with ether-HCl (cooled in ice bath). Petroleum ether (300 ml.) is added and the product oiled out of solution. The benzene-petroleum ether solution is decanted and the product is washed twice with anhydrous ether (scratching induced crystallization). The solid is recrystallized from ethanol (200 ml.) to yield: 32 g. (53%). A sample is recrystallized twice from isopropanol, m.p. 139°-143°.

reactant | 5-(p-Chlorophenyl)-2-furoic acid | 0.15 mole, 33.5 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
reactant | thionyl chloride | 58 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-diethylamino-2,2-dimethylpropanol | 0.15 mole, 24.1 g | C(C)N(CC(CO)(C)C)CC | C9H21NO
solvent | benzene | 700 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-Diethylamino-2,2-dimethylpropyl 5-(p-Chlorophenyl)-2-furoate Hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)OCC(CN(CC)CC)(C)C | InChI=1S/C20H26ClNO3.ClH/c1-5-22(6-2)13-20(3,4)14-24-19(23)18-12-11-17(25-18)15-7-9-16(21)10-8-15;/h7-12H,5-6,13-14H2,1-4H3;1H
